US07960552B2
A solution of methyl isobutyrylacetate (1.37 mL, 10.2 mmol) in THF (2.1 mL) was stirred at 0° C. as a 0.5 N solution of sodium methoxide in methanol (20.3 mL, 10.2 mmol) was added. A solution of 2,4-dichloro-N-hydroxy-3-pyridinecarboximidoyl chloride (1.94 g, 8.64 mmol) in THF (19 mL) was added and the resulting solution was allowed to warm to room temperature and stir overnight. The mixture was concentrated and the residue partitioned between ethyl acetate and brine. The organic layer was dried with MgSO4, filtered and concentrated. The residue was purified by chromatography (silica gel, hexanes to 3:7 ethyl acetate:hexanes gradient elution) and fractions containing the product concentrated. The residue was azetroped with methanol then dichloromethane to provide methyl 3-(2,4-dichloro-3-pyridinyl)-5-(1-methylethyl)-4-isoxazolecarboxylate (1.64 g, 66% as 0.15 dichloromethane). 1H NMR (400 MHz, DMSO-d6): δ 8.65 (d, J=5 Hz, 1H), 7.82 (d, J=5 Hz, 1H), 3.79 (septet, J=7 Hz, 1H), 3.63 (s, 3H), 1.34 (m, 6H).

reactant | methyl isobutyrylacetate | 10.2 mmol, 1.37 mL | C(C(C)C)(=O)CC(=O)OC | C7H12O3
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 10.2 mmol, 20.3 mL | CO | CH4O
reactant | 2,4-dichloro-N-hydroxy-3-pyridinecarboximidoyl chloride | 8.64 mmol, 1.94 g | ClC1=NC=CC(=C1C(=NO)Cl)Cl | C6H3Cl3N2O
solvent | THF | 2.1 mL | C1CCOC1 | C4H8O
solvent | THF | 19 mL | C1CCOC1 | C4H8O
product | methyl 3-(2,4-dichloro-3-pyridinyl)-5-(1-methylethyl)-4-isoxazolecarboxylate | 1.64 g, 66% | ClC1=NC=CC(=C1C1=NOC(=C1C(=O)OC)C(C)C)Cl | C13H12Cl2N2O3
